US04623657
5-Bromo-3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride
To a stirred solution of 3.89 g of 3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride in 35 ml of methanol at room temperature under nitrogen was added 2.24 g of N-bromosuccinimide. All solid dissolved rapidly as the pot temperature rose to 33° C. A TLC analysis after 20 minutes showed a complete reaction. The mixture was poured into water (175 ml), and 250 ml of saturated sodium bicarbonate solution was added with stirring. The mixture was then extracted with ether (2×250 ml). The combined organic extracts were washed with water (100 ml) and saturated sodium chloride solution (100 ml), dried briefly over anhydrous sodium sulfate, filtered and concentrated in vacuo to an oil. This material was dissolved in 100 ml of ether and the solution was stirred and treated with hydrogen chloride-saturated ether solution until the liquid phase was acidic to a pH paper. After a few minutes, the salt was filtered off, washed with ether and dried to afford 4.52 g of a solid, m.p. 169°-172° C. This crude salt was combined with two other batches of previously prepared crude salt and recrystallized by dissolving the solids in 20 ml of absolute ethanol, filtering by gravity, and treating the stirred filtrate dropwise with ether (140 ml). After stirring for 30 minutes the recrystallized salt was filtered, triturated and washed with ethanol/ether (1:7) solution, then ether and finally hexane. Drying in vacuo afforded 5.08 g of crystalline solid, m.p. 174°-176° C.

reactant | 3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride | 3.89 g | Cl.CN(CCCC1C2=C(OC13CCCCCC3)C=CC=C2)C
reactant | N-bromosuccinimide | 2.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 175 ml | O | H2O
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 35 ml | CO | CH4O
product | 5-Bromo-3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride | 4.52 g | Cl.BrC=1C=CC2=C(C(C3(CCCCCC3)O2)CCCN(C)C)C1 | InChI=1S/C19H28BrNO.ClH/c1-21(2)13-7-8-17-16-14-15(20)9-10-18(16)22-19(17)11-5-3-4-6-12-19;/h9-10,14,17H,3-8,11-13H2,1-2H3;1H
